US04490531
3-(4'-Aminobenzyl)pyridine
A solution of 3-(4'-nitrobenzyl)pyridine of Preparation 7 (7.924 g, 0.0370 mole) in methanol (100 ml) is shaken with 5% Pd on carbon and hydrogen in a Parr apparatus. Hydrogen uptake is complete within 45 min. The catalyst is removed by filtration through sintered glass. The solvent is removed under reduced pressure. The crystalline residue is recrystallized from methylene chloride-hexane with a first crop of 5.229 g; a second crop of 0.492 g; a third crop of 0.480 g; and a fourth crop of 0.137 g (total 6.338 g, 0.0347 mole, 94%). Recrystallization from CH2Cl2 -hexane gives colorless crystals of the titled product with a melting point of 121°-123° C.; IR (nujol) peaks are observed at 3400, 3300, 3200, 1640, 1610, 1590, 1575, 1515, 1480, 845, 800, and 710 cm-1.

reactant | 3-(4'-nitrobenzyl)pyridine | [N+](=O)([O-])C1=CC=C(CC=2C=NC=CC2)C=C1 | C12H10N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd on carbon | [Pd] | Pd
product | 3-(4'-Aminobenzyl)pyridine | NC1=CC=C(CC=2C=NC=CC2)C=C1 | C12H12N2
